US07381746B2
245 mL of a solution of 2.66 M n-butyllithiumhexane was added dropwise to 700 mL of a solution of tetrahydrofuran containing 137 mL of hexamethyldisilazane and stirred for 1 hour at a temperature maintained at −63° C. to −54° C. 340 mL of a solution of tetrahydrofuran containing 101 g of (1R,5R,6R)-6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylic acid ethyl ester was added dropwise thereto at a temperature maintained at −63° C. to −52° C. 700 mL of a solution of tetrahydrofuran containing 213 g of N-phenyl-bis(trifluoromethanesulfonimide) was added thereto 1 hour later at 63° C. to −45° C. The reaction solution was warmed naturally to room temperature and further stirred for 2.5 hours. The reaction solution was diluted with diethyl ether, washed three times with a saturated aqueous solution of sodium hydrogen carbonate and with a saturated aqueous solution of sodium chloride, and then dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel: Wako gel C200 (made by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=30:1 to 20:1 to 5:1). The obtained 175 g of (1R,5R,6R)-6-fluoro-2-trifluoromethanesulfonyloxybicyclo[3.1.0]hex-2-ene-6-carboxylic acid ethyl ester was dissolved in 875 mL of N,N-dimethylformamide and 875 mL of ethanol, and after 95.1 mL of diisopropylethylamine, 8.65 g of triphenylphosphine and 3.70 g of palladium acetate were added thereto, the mixture was stirred for 5.5 hours at room temperature, under a carbon monoxide atmosphere. 1N hydrochloric acid was added thereto, and the reaction solution was extracted six times with diethyl ether. The organic layers were combined, washed four times with a saturated aqueous solution of sodium hydrogen carbonate and with a saturated aqueous solution of sodium chloride, and then dried over anhydrous sodium sulfate. After the desiccant was filtered off, the filtrate was concentrated under reduced pressure, and the residue was purified by column chromatography (silica gel: Wako gel C200 (made by Wako Pure Chemical Industries Ltd.), eluent: hexane-ethyl acetate=30:1 to 20:1 to 10:1), thereby yielding 92.6 g of (1R,5R,6R)-6-fluoro-bicyclo[3.1.0]hex-2-ene-2,6-dicarboxylic acid diethyl ester.

reactant | n-butyllithiumhexane | 2.66 M | CCCCCC.C(CCC)[Li]
reactant | hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | (1R,5R,6R)-6-fluoro-2-oxobicyclo[3.1.0]hexane-6-carboxylic acid ethyl ester | C(C)OC(=O)[C@]1([C@@H]2CCC([C@H]12)=O)F | C9H11FO3
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | tetrahydrofuran | 213 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 101 g | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 137 mL | O1CCCC1 | C4H8O
product | (1R,5R,6R)-6-fluoro-bicyclo[3.1.0]hex-2-ene-2,6-dicarboxylic acid diethyl ester | 92.6 g | C(C)OC(=O)C=1[C@@H]2[C@]([C@@H]2CC1)(C(=O)OCC)F | C12H15FO4
